US05534644
To a solution of 63 g (0.32 moles) of 2-chloro-4-methyl-5-(2-chloroethyl)-thiazole in 630 cm3 of a 96% ethanol 9 g of a wet palladium on charcoal catalyst (palladium content: 8%) are added. The mixture is hydrogenated at atmospheric pressure. The termination of the reaction is indicated by the cease of the hydrogen consumption. After filtering off the catalyst the solution is evaporated, the residue is dissolved in water and the solution is neutralized with sodium hydrogen carbonate (pH 7). The separated oil is shaken out with chloroform. The residue after the evaporation of the chloroform solution is distilled under reduced pressure. 47 g (91%) of 4-methyl-5-(2-chloroethyl)-thiazole are obtained. Its boiling point is 105° C. at a pressure of 0.93 KPa, nD20 =1.5430. Its active agent content is 98.8%, determined by gas chromatography.

reactant | 2-chloro-4-methyl-5-(2-chloroethyl)-thiazole | 0.32 moles, 63 g | ClC=1SC(=C(N1)C)CCCl | C6H7Cl2NS
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | 9 g | C(C)O | C2H6O
product | 4-methyl-5-(2-chloroethyl)-thiazole | 47 g, 91% | CC=1N=CSC1CCCl | C6H8ClNS
